US06432988B1
a) Ethyl 4-methoxybenzoate
Ethyl 4-hydroxybenzoate (15.0 g, 0.09 mol) is stirred into an initial mixture of KOH (6.3 g, 0.11 mol) in dist. water (60 ml) under protective gas. Dimethyl sulfate (8.8 ml, 0.09 mol) is added dropwise to the clear solution with stirring and ice-cooling such that the temperature does not exceed 15° C. After addition is complete, the cooling is removed, and to complete the reaction the reaction mixture is stirred at RT for 45 min and under reflux for 2 h, then cooled to RT. The deposited oil is taken up in diethyl ether (50 ml). The aqueous phase separated off is extracted with diethyl ether (150 ml), and the ethereal extracts obtained are combined, washed with sodium hydroxide solution (10% strength, 50 ml) and with saturated NaCl solution, dried over Na2SO4 sicc. and concentrated in vacuo: colorless oil, yield: 15.7 g (97%).

reactant | Ethyl 4-hydroxybenzoate | 0.09 mol, 15.0 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | KOH | 0.11 mol, 6.3 g | [OH-].[K+]
reactant | water | 60 ml | O | H2O
reactant | Dimethyl sulfate | 0.09 mol, 8.8 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | Ethyl 4-methoxybenzoate | COC1=CC=C(C(=O)OCC)C=C1 | C10H12O3
